US04039579
3-[1-(Butylimino)-2-(methylsulfinyl)ethyl]-2-naphthalenol.
A solution of 3'-hydroxy-2-(methylsulfinyl)-2'-acetonaphthone (10 g, 0.040 mole) in n-butylamine (50 ml) was stirred at room temperature for 24 hrs. The reaction mixture was poured into petroleum ether (400 ml) and the product, which precipitated, was filtered off. Recrystallization from absolute ethanol gave light brown crystals (7.0 g, 55%), mp 162°-164°.

reactant | 3'-hydroxy-2-(methylsulfinyl)-2'-acetonaphthone | 0.040 mole, 10 g | OC=1C(=CC2=CC=CC=C2C1)C(CS(=O)C)=O | C13H12O3S
reactant | n-butylamine | 50 ml | C(CCC)N | C4H11N
product | 3-[1-(Butylimino)-2-(methylsulfinyl)ethyl]-2-naphthalenol | 7.0 g, 55% | C(CCC)N=C(CS(=O)C)C=1C(=CC2=CC=CC=C2C1)O | C17H21NO2S
